US07691882B2
3-(3-(4-Benzyloxy-benzyl)-isoxazol-5-yl)-5-fluoro-pyridin-2-ylamine
To a tetrahydrofuran (10 mL) mixture of 3-ethynyl-5-fluoro-pyridin-2-ylamine (129 mg, 0.95 mmol) described in Manufacturing Example 173-1-2 and 4-benzyloxy-phenyl-acetohydroximoyl chloride (314 mg, 1.14 mmol) described in Manufacturing Example 1-1-3 was added triethylamine (264 μL, 1.90 mmol) at room temperature, which was stirred for 1 hour at 55° C., and then for another hour at 60° C. This reaction mixture was cooled to room temperature, and then partitioned into ethyl acetate and water. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue thus obtained was purified by NH silica gel column chromatography (heptane:ethyl acetate=3:1) to obtain the title compound (212 mg, 60%).

reactant | 3-ethynyl-5-fluoro-pyridin-2-ylamine | 0.95 mmol, 129 mg | C(#C)C=1C(=NC=C(C1)F)N | C7H5FN2
reactant | 4-benzyloxy-phenyl-acetohydroximoyl chloride | 1.14 mmol, 314 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=NO)Cl | C15H14ClNO2
reactant | triethylamine | 1.90 mmol, 264 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(3-(4-Benzyloxy-benzyl)-isoxazol-5-yl)-5-fluoro-pyridin-2-ylamine | 212 mg, 60% | C(C1=CC=CC=C1)OC1=CC=C(CC2=NOC(=C2)C=2C(=NC=C(C2)F)N)C=C1 | C22H18FN3O2
